US08859544B2
6-[(1-Methoxy-2-methylindolizin-3-yl)carbonyl]-N-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide
0.36 g (5.31 mmol) of methylamine hydrochloride, 1.3 g (3.99 mmol) of TOTU and 1.37 g (10.63 mmol) of DIEA are added to 1 g (2.66 mmol) of 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid in 23 ml of anhydrous DMF. The reaction medium is stirred at ambient temperature under a nitrogen atmosphere for 8 h. 0.36 g (5.33 mmol) of methylamine hydrochloride is added to the reaction medium. After 18 h at ambient temperature, the reaction medium is hydrolysed with a 1N solution of HCl and then extracted with ethyl acetate. The organic phase is washed with a saturated solution of sodium chloride, dried over sodium sulphate, and then concentrated under reduced pressure. The residue obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (90/10) mixture. 0.06 g of a yellow solid is obtained.

reactant | methylamine hydrochloride | 5.31 mmol, 0.36 g | Cl.CN
reactant | TOTU | 3.99 mmol, 1.3 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | DIEA | 10.63 mmol, 1.37 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 2.66 mmol, 1 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(C(=CNC2=CC1)C(=O)O)=O)C | C21H16N2O5
reactant | methylamine hydrochloride | 5.33 mmol, 0.36 g | Cl.CN
reactant | HCl | Cl | ClH
solvent | DMF | 23 ml | CN(C)C=O | C3H7NO
product | 6-[(1-Methoxy-2-methylindolizin-3-yl)carbonyl]-N-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide | 0.06 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(C(=CNC2=CC1)C(=O)NC)=O)C | C22H19N3O4
